US07560462B2
Step 2: 2-(4-Methyl-2-nitro phenyl)thiazol-4-yl methanol
2-(4-Methyl-2-nitro-phenyl-thiazole-4-carboxylic acid ethyl ester (292 mg, 1 mmol) was dissolved in 5 mL of absolute EtOH at room temperature in an open flask. Sodium borohydride (1 mmol, 38 mg) was added portionwise over several hours and the reaction was monitored by TLC (EtOAc:hexanes 2:3). After completion of the reaction, 2N HCl was added carefully with stirring. After 15 min, the clear yellow solution was concentrated on the rotavap, and the crude mixture was partitioned between EtOAc (60 mL) and water (60 mL). The organics were isolated and washed with sat NaHCO3 and 60 mL of sat NaCl. The organics were dried over MgSO4, filtered and concentrated to provide an orange solid as the desired material.

reactant | 4-Methyl-2-nitro-phenyl-thiazole-4-carboxylic acid ethyl ester | 1 mmol, 292 mg | C(C)OC(=O)C=1N=C(SC1)C1=C(C=C(C=C1)C)[N+](=O)[O-] | C13H12N2O4S
reactant | Sodium borohydride | 1 mmol, 38 mg | [BH4-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
product | 2-(4-Methyl-2-nitro phenyl)thiazol-4-yl methanol | CC1=CC(=C(C=C1)C=1SC=C(N1)CO)[N+](=O)[O-] | C11H10N2O3S
